US08809580B2
2,2,3,4,4-Pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butyric acid (CF3—O—CF2CF2CF2—O—CF2CFHCF2COOH (3))
2.4 mL water, 8 ml MeCN, 0.16 g KBr, TEMPO (0.06 g), and 5 g of 2,2,3,4,4-pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butan-1-ol (prepared according to Zh. Vses. Khim. Ova, 1979, p 656) were placed in a 50 mL glass flask equipped with a dropping funnel and stirrer. 24 ml 15% (wt.) aq. NaOCl buffered to pH 8-9 were added via the dropping funnel in 3 portions over two days while stirring at room temperature. Then concentrated sulphuric acid and water were added to make the reaction mixture acidic (pH=1-2). The reaction mixture was extracted three times with diethyl ether and the combined ether phases were dried over magnesium sulphate. The solvent was evaporated to give a colorless liquid, which was distilled using a water pump (15 mmHg, 75° C.) to give 4.17 g of the acid. Yield: 81%. 1H NMR (CDCl3): 5.2 (dm, J=43 Hz, 1H); 10.2 (s, 1H); 19F NMR (CDCl3): −56.3 (t, J=8.3 Hz, 3F); −78.5 (m, 2F); −84.7 (m, 2F); −86.87 (m, 2F); −130.45 (m, 2F); −117.9 (AB system, J=277 Hz, 1F); −121.6 (AB system, J=277 Hz, 1F); −130.5 (m, 2F); −214.1 (dm, J=43 Hz, J=ca. 11 Hz, 1F).

reactant | KBr | 0.16 g | [K+].[Br-]
reactant | 2,2,3,4,4-pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butan-1-ol | 5 g | FC(CO)(C(C(OC(C(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C8H4F14O3
reactant | NaOCl | 24 ml | [O-]Cl.[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | TEMPO | 0.06 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | water | O | H2O
solvent | MeCN | 8 ml | CC#N | C2H3N
solvent | water | 2.4 mL | O | H2O
product | 2,2,3,4,4-Pentafluoro-4-(1,1,2,2,3,3-hexafluoro-3-trifluoromethoxy-propoxy)-butyric acid | 4.17 g, Yield: 81% | FC(C(=O)O)(C(C(OC(C(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C8H2F14O4
